US04886894
To an aqueous solution of diethyl 2-(glycylamino)malonate hydrochloride (2.7 g) is added potassium isocyanate (1.6 g), and the mixture is stirred for 10 minutes. To the reaction mixture is added acetic acid (0.7 ml), and the mixture is further stirred for 5 hours. The reaction mixture is extracted with chloroform, and the extract is concentrated under reduced pressure. The residue is recrystallized from ethyl acetate to give diethyl 2-(N-carbamoylglycyl)aminomalonate (1.58 g), m.p. 140°-141.5° C.

reactant | diethyl 2-(glycylamino)malonate hydrochloride | 2.7 g | Cl.NCC(=O)NC(C(=O)OCC)C(=O)OCC
reactant | potassium isocyanate | 1.6 g | [N-]=C=O.[K+]
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | diethyl 2-(N-carbamoylglycyl)aminomalonate | 1.58 g | C(N)(=O)NCC(=O)NC(C(=O)OCC)C(=O)OCC | C10H17N3O6
